US04738970
2.0 Grams of 3-methyl-4-nitro-5,6,7,8-tetrahydroquinoline-N-oxide was dissolved in allyl alcohol. Then 0.6 g of sodium hydroxide was added thereto, and the mixture was stirred at 70°-80° C. for 3 hours. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, to the residue thus obtained was added water, and was extracted with chloroform. The chloroform layer was washed with an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate. Chloroform was removed by evaporation under reduced pressure to obtain 1.4 g of 4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide in the form of brown oily substance.

reactant | 3-methyl-4-nitro-5,6,7,8-tetrahydroquinoline-N-oxide | CC=1C=[N+](C=2CCCCC2C1[N+](=O)[O-])[O-] | C10H12N2O3
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | allyl alcohol | C(C=C)O | C3H6O
product | 4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide | 1.4 g | C(C=C)OC1=C(C=[N+](C=2CCCCC12)[O-])C | C13H17NO2
